US05455258
N-Benzyloxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide is reacted with hydrogen in the presence of 10% palladium on charcoal catalyst at room temperature and atmospheric pressure to yield N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide.

reactant | N-Benzyloxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide | C(C1=CC=CC=C1)ONC([C@@H](C(C)C)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H29N3O5S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
product | N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide | ONC([C@@H](C(C)C)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H23N3O5S
